US07119086B2
A) 5-Chloro-3-hydroxy-3-(2-trifluoromethylphenyl)-1,3-dihydro-2H-indol-2-one
A mixture of 2.3 g of magnesium and 0.01 g of iodine in 20 ml of ether is heated to reflux, a solution of 26 g of 1-bromo-2-trifluoromethylbenzene in 20 ml of ether is added dropwise and the resulting mixture is refluxed for 60 minutes. A solution of 9 g of 5-chloro-1H-indole-2,3-dione in 40 ml of THF is then added and refluxing is continued for 30 minutes. After cooling to RT, the reaction mixture is poured into an ice/concentrated HCl mixture and extracted with ether, the organic phase is washed with 1N NaOH solution and with water, and dried over Na2SO4, and the solvent is evaporated off under vacuum. 5.3 g of the expected product are obtained after crystallization from heptane, m.p.=205–208° C.

reactant | magnesium | 2.3 g | [Mg] | Mg
reactant | 1-bromo-2-trifluoromethylbenzene | 26 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | 5-chloro-1H-indole-2,3-dione | 9 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | iodine | 0.01 g | II | I2
product | 5-Chloro-3-hydroxy-3-(2-trifluoromethylphenyl)-1,3-dihydro-2H-indol-2-one | 5.3 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)C(F)(F)F)O | C15H9ClF3NO2
